US04572908
A. N-{2-[(4-{2-Chlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethyl}-N'-cyano-S-methyl-isothiourea
2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2-chlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (4.3 g) and dimethyl N-cyanoimidodithiocarbonate (2 g) in isopropanol (15 ml) were allowed to stand at room temperature for 4 hours. Ether (30 ml) was then added and the mixture was stood at room temperature overnight. The crystalline precipitate was filtered, washed with ether and dried, yield of the title compound 5.0 g, m.p. 177°-179°.

reactant | 2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2-chlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 4.3 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | dimethyl N-cyanoimidodithiocarbonate | 2 g | CSC(=NC#N)SC | C4H6N2S2
reactant | Ether | 30 ml | CCOCC | C4H10O
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | N-{2-[(4-{2-Chlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethyl}-N'-cyano-S-methyl-isothiourea | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC(SC)=NC#N)C(=O)OCC | C23H27ClN4O5S
